US07645753B2
2-Chloro-3-ethoxy-pyridine
A mixture of 3-ethoxy-pyridin-2-ol (4.0 g, 28.8 mmol, 1.0 equiv), N,N-diethylaniline (4.61 mL, 4.29 g, 28.8 mmol, 1.0 equiv) and phosphorus oxychloride (2.62 mL, 4.41 g, 28.8 mmol, 1.0 equiv) was heated to 150° C. under microwave irradiation for 20 min. The crude reaction mixture was poured into water (100 mL), the solution adjusted to pH 7 and extracted with dichloromethane (3×100 mL). The combined organic phases were dried over MgSO4, the solvent removed by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with hexane/ethyl acetate (4:1) providing 3.2 g (71%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.50 (t, J=7.0 Hz, 3H), 4.12 (q, J=7.0 Hz, 2H), 7.18 (d, J=3.2 Hz, 2H), 7.98 (t, J=3.2 Hz, 1H). MS (ISP): 157.7 [M+H]+.

reactant | 3-ethoxy-pyridin-2-ol | 28.8 mmol, 4.0 g, 1.0 equiv | C(C)OC=1C(=NC=CC1)O | C7H9NO2
reactant | N,N-diethylaniline | 28.8 mmol, 4.61 mL, 4.29 g, 1.0 equiv | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 28.8 mmol, 2.62 mL, 4.41 g, 1.0 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 100 mL | O | H2O
product | 2-Chloro-3-ethoxy-pyridine | 3.2 g, 71% | ClC1=NC=CC=C1OCC | C7H8ClNO
